US06673804B1
(1) (±)-N-(4-Methoxybenzenesulfonyl)valine Methyl Ester
In a similar manner to that in Example 1(2)-b, a reaction was carried out using (±)-valine methyl ester and 4-methoxybenzenesulfonyl chloride to afford the desired compound (yield 90%) as a white powder.

reactant | (±)-valine methyl ester | COC([C@@H](N)C(C)C)=O | C6H13NO2
reactant | 4-methoxybenzenesulfonyl chloride | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
product | (±)-N-(4-Methoxybenzenesulfonyl)valine Methyl Ester | yield 90% | COC([C@@H](NS(=O)(=O)C1=CC=C(C=C1)OC)C(C)C)=O | C13H19NO5S
